US04243600
10 parts of 1-nitroanthraquinone-2-carboxylic acid and 10 parts of hydroxylamine hydrochloride are suspended at room temperature in 60 parts of ethanol and 100 parts of 4 N sodium hydroxide. The mixture is refluxed for 3 hours, then cooled to room temperature, diluted with water and acidified with hydrochloric acid. The mixture is filtered and the filter cake is washed neutral with water and dried, affording 7.5 parts of 1,4-diaminoanthraquinone-2-carboxylic acid. Recrystallisation from alcohol yields an analytically pure sample with a melting point of about 352° C.

reactant | 1-nitroanthraquinone-2-carboxylic acid | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H7NO6
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1,4-diaminoanthraquinone-2-carboxylic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C(=O)O | C15H10N2O4
